US09290514B2
Step 2. 2-Amino-6-bromo-4-fluoro-3-nitrophenol
To a stirred solution of 6-bromo-4-fluoro-2,3-dinitrophenol (4.4 g, 16 mmol) in methanol (88 mL) and 12.0 M hydrogen chloride in water (40 mL) was added stannous chloride, dihydrate (11 g, 47 mmol). The reaction was stirred at RT for 15 min. Water was added and the mixture was extracted with ethyl acetate. The organic layer was separated and concentrated. Purification on silica gel using ethyl acetate in hexanes gave the desired compound, 2.48 g, 63%. 1H NMR (300 MHz, DMSO-d6) δ 9.80 (br s, 3H), 6.80 (m, 1H).

reactant | 6-bromo-4-fluoro-2,3-dinitrophenol | 16 mmol, 4.4 g | BrC1=CC(=C(C(=C1O)[N+](=O)[O-])[N+](=O)[O-])F | C6H2BrFN2O5
solvent | methanol | 88 mL | CO | CH4O
solvent | hydrogen chloride | 12.0 M | Cl | ClH
solvent | water | 40 mL | O | H2O
product | 2-Amino-6-bromo-4-fluoro-3-nitrophenol | NC1=C(C(=CC(=C1[N+](=O)[O-])F)Br)O | C6H4BrFN2O3
